US06638929B2
A mixture of 3.0 g (11.3mmol) of 8-hydroxy-7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile and 20.0 mL of phosphorus oxychloride is heated under reflux for 0.5 hour, then cooled to room temperature. Excess phosphorus oxychloride is evaporated to yield a residue, to which toluene is added and the resulting solution is reduced in vacuo. Toluene is added and evaporated twice more. The resulting residue is cooled with ice bath, neutralized with cold saturated solution of sodium bicarbonate and stirred. The solid is collected by filtration, washed with cold water and dried to yield 2.83 g of 4-chloro-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile as a yellow solid. A sample of the material is purified by silica gel chromatography, eluting with 97:3 methylene chloride/methanol to yield a yellow solid, mp. >300° C.

reactant | 8-hydroxy-7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | 11.3mmol, 3.0 g | OC1=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C=C1OC | C15H10N2O3
reactant | phosphorus oxychloride | 20.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile | 2.83 g | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)O)OC)C#N | C15H9ClN2O2
